US08349865B2
Step 3: 6-[(4-Acetyl-2,6-dichlorophenyl)amino]pyrido[4,3-c]-1,6-napthyridin-10(9H)-one
To a solution of N-[2,6-dichloro-4-(2-methyl-1,3-dioxolan-2-yl)phenyl]-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine and N-[2,6-dichloro-4-(2-methyl-1,3-dioxolan-2-yl)phenyl]-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (3.0 g) in THF (30 mL) was added 6 N HCl (20 mL) and the mixture was heated to 85° C. for 3.5 hr. After cooling to room temperature, the mixture was neutralized with saturated NaHCO3 and extracted with 1:1 THF/EtOAc. The precipitate between the organic and aqueous layers were collected and determined to be pure by LCMS. The organic layer was concentrated and purified by column chromatography (100% CH2Cl2 to 30% MeOH).

reactant | N-[2,6-dichloro-4-(2-methyl-1,3-dioxolan-2-yl)phenyl]-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | ClC1=C(C(=CC(=C1)C1(OCCO1)C)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OCC | C23H20Cl2N4O3
reactant | N-[2,6-dichloro-4-(2-methyl-1,3-dioxolan-2-yl)phenyl]-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 3.0 g | ClC1=C(C(=CC(=C1)C1(OCCO1)C)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OC | C22H18Cl2N4O3
reactant | HCl | 6 N, 20 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-[(4-Acetyl-2,6-dichlorophenyl)amino]pyrido[4,3-c]-1,6-napthyridin-10(9H)-one | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O)Cl | C19H12Cl2N4O2
